US05366987
(e) (±)-4-(1-Dodecenyl)-α-phenyl-N-(2,4,6-trimethoxyphenyl)-1H-pyrazole-1-acetamide
Triethylamine (18 mL, 130 mmol) was added to a suspension of 2,4,6-trimethoxyaniline hydrochloride (28.48 g, 130 mmol) in 500 mL THF and stirred for 1 hour before filtering to remove triethylamine hydrochloride. The filtrate was concentrated and redissolved in 500 mL dichloromethane along with (±)-4-(1-dodecenyl)-α-phenyl-1H-pyrazole-1-acetic acid (43.43 g, 118 mmol) at -15° C. Dicyclohexylcarbodiimide (25.53 g, 124 mmol) was added in one portion and the resulting suspension was warmed to room temperature and stirred for 16 hours. Filtered to remove a white solid and partitioned the filtrate between dichloromethane and 1N HCl. The organic layer was dried over MgSO4, filtered, and concentrated to give an oily tan solid. Recrystallized from hexanes to give the title compound as a tan solid (45.43 g, 72%); mp 82-85° C.

reactant | Triethylamine | 130 mmol, 18 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-trimethoxyaniline hydrochloride | 130 mmol, 28.48 g | Cl.COC1=C(N)C(=CC(=C1)OC)OC
reactant | (±)-4-(1-dodecenyl)-α-phenyl-1H-pyrazole-1-acetic acid | 118 mmol, 43.43 g | C(=CCCCCCCCCCC)C=1C=NN(C1)C(C(=O)O)C1=CC=CC=C1 | C23H32N2O2
reactant | Dicyclohexylcarbodiimide | 124 mmol, 25.53 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | (±)-4-(1-Dodecenyl)-α-phenyl-N-(2,4,6-trimethoxyphenyl)-1H-pyrazole-1-acetamide | 45.43 g, 72% | C(=CCCCCCCCCCC)C=1C=NN(C1)C(C(=O)NC1=C(C=C(C=C1OC)OC)OC)C1=CC=CC=C1 | C32H43N3O4
